US07323475B2
b) [(1-Chloro-4-methoxy-isoquinoline-3-carbonyl)-amino]-acetic acid
A mixture of [(1-chloro-4-methoxy-isoquinoline-3-carbonyl)-amino]-acetic acid methyl ester (21 mg, 0.07 mmol), KOH (23 mg, 0.35 mmol) and EtOH (1 ml) was stirred at ambient temperature for 3 h. Then the solvent was evaporated in vacuo. The residue was dissolved in water (2 ml) and the pH of the solution was adjusted to 2-3 by the addition of aqueous 1N HCl. The mixture was extracted with EtOAc (4×10 ml). The combined org. phases were dried over MgSO4 and evaporated in vacuo to give the title compound as a slightly yellowish solid (18 mg); MS-(+)-ion: M+1=295.0.

reactant | [(1-chloro-4-methoxy-isoquinoline-3-carbonyl)-amino]-acetic acid methyl ester | 0.07 mmol, 21 mg | COC(CNC(=O)C=1N=C(C2=CC=CC=C2C1OC)Cl)=O | C14H13ClN2O4
reactant | KOH | 0.35 mmol, 23 mg | [OH-].[K+]
solvent | EtOH | 1 ml | CCO | C2H6O
product | [(1-Chloro-4-methoxy-isoquinoline-3-carbonyl)-amino]-acetic acid | ClC1=NC(=C(C2=CC=CC=C12)OC)C(=O)NCC(=O)O | C13H11ClN2O4
